US06858627B2
2,2-Dimethyl-6-(2-methylsulfanylphenyl)-4-phenethylsulfanylmethyl-1,2-dihydroquinoline
Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester was coupled with 2-(methylthio)phenylboronic acid. Bromination and coupling reaction with 2-phenylethanethiol gave 59 mg of the title compound.

reactant | Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester | CC1(NC2=CC=C(C=C2C(=C1)C)OS(=O)(=O)C(F)(F)F)C | C13H14F3NO3S
reactant | 2-(methylthio)phenylboronic acid | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | 2-phenylethanethiol | C1(=CC=CC=C1)CCS | C8H10S
product | 2,2-Dimethyl-6-(2-methylsulfanylphenyl)-4-phenethylsulfanylmethyl-1,2-dihydroquinoline | 59 mg | CC1(NC2=CC=C(C=C2C(=C1)CSCCC1=CC=CC=C1)C1=C(C=CC=C1)SC)C | C27H29NS2
